US04309422
Preparation of O-Ethyl S-Propyl O-(3-Formuylphenyl) Thiophosphate
A solution of O-ethyl S-propyl chlorothiophosphate prepared by the method detailed in Example 1 was charged into a glass reaction vessel equipped with a stirrer and thermometer. The solution was cooled to a temperature of about -10° C. and triethylamine (2.23 ml) was added followed by the dropwise addition with stirring of 3-hydroxybenzaldehyde (1.95 grams; 0.016 mole) dissolved in methylene chloride (10 ml). Stirring was continued for a period of about 2 hours while maintaining the temperature of the reaction mixture at about 0° C. After this time the reaction mixture was transferred into a separatory funnel and was washed twice with water (100 ml), twice with dilute aqueous sodium hydroxide (50 ml; 0.1 N) and again twice with water (100 ml). The washed solution was then dried over anhydrous magnesium sulfate, filtered and stripped of solvent leaving an orange oil. This oil was subjected to high vacuum for a period of one hour to yield the desired product O-ethyl S-propyl O-(3-formylphenyl) thiophosphate.

reactant | O-ethyl S-propyl chlorothiophosphate | P(=O)(OCC)(SCCC)Cl | C5H12ClO2PS
reactant | triethylamine | 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxybenzaldehyde | 0.016 mole, 1.95 grams | OC=1C=C(C=O)C=CC1 | C7H6O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | O-ethyl S-propyl O-(3-formylphenyl) thiophosphate | P(=O)(OCC)(SCCC)OC1=CC(=CC=C1)C=O | C12H17O4PS
